US08309581B2
b) 4-(Toluene-4-sulfonyloxymethyl)-cyclohexane carboxylic acid methyl ester
To a stirred solution of 4-hydroxymethyl-cyclohexane carboxylic acid methyl ester (300 mg, 1.74 mmol; CAS Reg. No. 13380-85-3) in dichloromethane (10 ml) under nitrogen was added triethylamine (0.5 ml, 3.48 mmol) and p-toluenesulfonyl chloride (664 mg, 3.48 mmol; CAS Reg. No. 98-59-9) at 25° C. and the mixture was stirred for 16 h. The reaction mixture was evaporated under reduced pressure, and the crude product was purified by column chromatography over silica gel (ethyl acetate/n-hexane) to give the desired compound. Colorless powder (62%). MS (Turbo Spray): m/z=327.1 (M+H).

reactant | 4-hydroxymethyl-cyclohexane carboxylic acid methyl ester | COC(=O)C1CCC(CC1)CO | C9H16O3
reactant | triethylamine | 3.48 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(Toluene-4-sulfonyloxymethyl)-cyclohexane carboxylic acid methyl ester | COC(=O)C1CCC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C16H22O5S
